US07462735B2
5-[2-(2-hydroxybenzoylamino)benzoylamino]pentanoic acid. (compound 5)
To a suspension of 1.61 g (6.81 mmol) of 5-(2-aminobenzoylamino)pentanoic acid in 20 ml of dry methylene chloride, add 1.41 g (11.94 mmol) of trimethylsilyl chloride and allow the reaction to reflux for 5 hours. Then place the flask in an ice bath and add 0.88 g (8.73 mmol) of triethylamine and a solution of 1.15 g (5.82 mmol) of acetylsalicyloyl chloride dissolved in 5 ml of dry methylene chloride. Allow the reaction to stir for 30 minutes in an ice bath and 24 hours at room temperature. Eliminate the solvent at low pressure, add 20 ml of 10% NaOH to the crude product and continue stirring the mixture until the oil has completely disappeared. Immediately acidify with concentrated HCl, filter the resulting solid and wash several times with water and with ether. Purify the reaction product by recrystallization (EtOH/H2O). This yields 1.26 g (61%) of 5-[2-(2-hydroxybenzoylamino) benzoyl-amino]pentanoic acid as a white solid.

reactant | 5-(2-aminobenzoylamino)pentanoic acid | 6.81 mmol, 1.61 g | NC1=C(C(=O)NCCCCC(=O)O)C=CC=C1 | C12H16N2O3
reactant | trimethylsilyl chloride | 11.94 mmol, 1.41 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 8.73 mmol, 0.88 g | C(C)N(CC)CC | C6H15N
reactant | acetylsalicyloyl chloride | 5.82 mmol, 1.15 g | C(C)(=O)OC=1C(C(=O)Cl)=CC=CC1 | C9H7ClO3
reactant | NaOH | 20 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-[2-(2-hydroxybenzoylamino)benzoylamino]pentanoic acid | OC1=C(C(=O)NC2=C(C(=O)NCCCCC(=O)O)C=CC=C2)C=CC=C1 | C19H20N2O5
